US06107494
Alkylation of 4-methylphenol with 4-fluorobenzyl chloride according to the procedure described in J. Chem. Soc, 2431 (1958) gave 4-methyl-2-(4'-fluorobenzyl)phenol). This material was converted to compound 84 and compound 85 by the procedure similar to that in Example 18 method B.

reactant | 4-methylphenol | CC1=CC=C(C=C1)O | C7H8O
reactant | 4-fluorobenzyl chloride | FC1=CC=C(CCl)C=C1 | C7H6ClF
product | 4-methyl-2-(4'-fluorobenzyl)phenol | CC1=CC(=C(C=C1)O)CC1=CC=C(C=C1)F | C14H13FO
